* CL21A226MPQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-13-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 2.8V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MPQNNN_Precise_DC2.8V_25degC 1 2
C1 1 3 1.15148E-5
C2 3 4 3.40570E-4
C3 4 5 4.20886E-4
C4 5 6 4.29581E-4
C5 6 7 4.13961E-4
C6 7 8 5.09168E-4
C7 8 9 3.68520E-4
C8 9 10 1.0E-10
C16 17 18 0.00125
C17 18 19 0.00689
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 2.49801E-5
C24 25 26 3.96125E-5
C25 26 27 1.83567E-6
C26 27 28 4.45629E-11
C27 28 2 3.33982E-11
L10 11 12 6.59066E-11
L11 12 13 9.14794E-11
L12 13 14 9.05518E-11
L13 14 15 2.91617E-11
L14 15 16 3.32401E-11
L15 16 17 1.0E-10
L16 17 18 9.23358E-12
L17 18 19 3.13848E-12
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 8.63284E-11
L24 25 26 2.79548E-11
L25 26 27 1.81304E-10
L26 27 28 3.22266E-11
L27 28 2 1.57784E-11
R1 1 3 1.0E8
R2 3 4 20.41479
R3 4 5 2.49012
R4 5 6 0.44569
R5 6 7 0.08889
R6 7 8 0.01477
R7 8 9 0.00435
R8 9 10 1.0E-6
R9 10 11 0.00240
R11 12 13 0.01260
R12 13 14 0.01248
R13 14 15 0.03645
R14 15 16 0.14489
R15 16 17 1.0E-6
R16 17 18 0.00121
R17 18 19 3.32385E-4
R18 19 20 1.0E-6
R19 20 21 1.0E-6
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00431
R24 25 26 0.00271
R25 26 27 0.00686
R26 27 28 1.20644
R27 28 2 0.86219
.ENDS CL21A226MPQNNN_Precise_DC2.8V_25degC